US04267174
1-(2-Methylthiobenzoyl)-2-cyanoaziridine.
1.86 g. 2-Methylthiobenzoyl chloride is dissolved in 14 ml. anhydrous diethyl ether and this solution is added dropwise at ambient temperature to a solution of 0.68 g. 2-cyanoaziridine in 8.6 ml. aqueous 2 N sodium carbonate solution and then stirred for 2 hours, whereafter the ethereal phase is separated off and evaporated to give 1.72 g. of residue which is triturated with 4 ml. isopropanol. There is thus obtained 1.35 g. 1-(2-methylthiobenzoyl)-2-cyanoaziridine; m.p. 67°-69° C.

reactant | 2-Methylthiobenzoyl chloride | CC1=C(C(=S)Cl)C=CC=C1 | C8H7ClS
reactant | 2-cyanoaziridine | C(#N)C1NC1 | C3H4N2
reactant | sodium carbonate | 2 N | C([O-])([O-])=O.[Na+].[Na+]
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-(2-Methylthiobenzoyl)-2-cyanoaziridine | CC1=C(C(=S)N2C(C2)C#N)C=CC=C1 | C11H10N2S
